US04507498
A mixture of 1.14 g (0.0059 mole) of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 2.87 g (0.0059 mole) of 6-[4-acetyl-3-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]-2-propylphenoxy]hexanoic acid methyl ester and 1.62 g (0.012 mole) of anhydrous potassium carbonate in 50 ml of anhydrous acetone and 25 ml of anhydrous dimethylformamide was stirred at reflux for 17 hours. The solvents were removed in vacuo and the residue was purified by HPLC using 35% ethyl acetate-hexane to yield 2.65 g (77% yield) of 6-[4-acetyl-3-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]hexanoic acid methyl ester.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.0059 mole, 1.14 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 6-[4-acetyl-3-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]-2-propylphenoxy]hexanoic acid methyl ester | 0.0059 mole, 2.87 g | COC(CCCCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOS(=O)(=O)C)CCC)=O | C23H36O9S
reactant | potassium carbonate | 0.012 mole, 1.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-[4-acetyl-3-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]hexanoic acid methyl ester | 2.65 g, 77% yield | COC(CCCCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C33H46O9
